US04435322
Diethyl 1-benzyl-4-oxo-2,2-azetidine-dicarboxylate
34.1 g. (0.1 moles) of diethyl N-benzyl-N-(chloroacetyl)-amino-malonate prepared according to Example 19 and 18.2 ml. (13.2 g., 0.13 moles) of triethyl amine in 100 ml. of benzene are stirred at room temperature for 8 hours. The mixture is shaken with 100 ml. of water, 50 ml. of a 10% aqueous hydrochloric acid solution and again with 100 ml. of water. The organic phase is dried with magnesium sulfate, filtered and from the filtrate benzene is distilled off. The oily residue is distilled at 149° to 150° C., under a pressure of 0.1 mmHg. 23 g. (75%) of the named compound are obtained.

reactant | diethyl N-benzyl-N-(chloroacetyl)-amino-malonate | 0.1 moles | C(C1=CC=CC=C1)N(C(CCl)=O)C(C(=O)OCC)C(=O)OCC | C16H20ClNO5
reactant | triethyl amine | 0.13 moles, 13.2 g | C(C)N(CC)CC | C6H15N
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | Diethyl 1-benzyl-4-oxo-2,2-azetidine-dicarboxylate | 75% | C(C1=CC=CC=C1)N1C(CC1=O)(C(=O)OCC)C(=O)OCC | C16H19NO5
